US09371320B2
D) 4-(1-tert-butyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)benzenesulfonamide
A solution of 1-tert-butyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl trifluoromethanesulfonate (521 mg), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzenesulfonamide (501 mg), tetrakis(triphenylphosphine)palladium(0) (170 mg) and 2M aqueous sodium carbonate solution (3.69 mL) in DME (40 mL) was heated overnight with reflux under nitrogen atmosphere. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane), and the obtained solid was washed with ethyl acetate/diisopropyl ether to give the title compound (433 mg).

reactant | 1-tert-butyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl trifluoromethanesulfonate | 521 mg | FC(S(=O)(=O)OC1=NN(C2=C1C(=NC=C2)OC)C(C)(C)C)(F)F | C12H14F3N3O4S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzenesulfonamide | 501 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)S(=O)(=O)N)C | C12H18BNO4S
reactant | sodium carbonate | 2M, 3.69 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | DME | 40 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 170 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(1-tert-butyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)benzenesulfonamide | 433 mg | C(C)(C)(C)N1N=C(C=2C(=NC=CC21)OC)C2=CC=C(C=C2)S(=O)(=O)N | C17H20N4O3S
